US04690931
1. 2-[4-(4-Methylbenzyl)-piperidino]-4'-methoxy-3',5'-dimethylpropiophenone
5.9 g (0.022 mol) of 2-bromo-4'-methoxy-3',5'-dimethylpropiophenone are dissolved in 30 ml of ethanol, 4.2 g (0.022 mol) of 4-(4-methylbenzyl)-piperidine and then 2.12 g (0.02 mol) of sodium carbonate are added and the mixture is heated under reflux for 2 hours. It is left to cool, the inorganic precipitate is filtered off and the filtrate is evaporated. The residual oil is purified by chromatography on silica using acetone as the eluant. This gives 8 g of a product, which is used as such.

reactant | 2-bromo-4'-methoxy-3',5'-dimethylpropiophenone | 0.022 mol, 5.9 g | BrC(C(=O)C1=CC(=C(C(=C1)C)OC)C)C | C12H15BrO2
reactant | 4-(4-methylbenzyl)-piperidine | 0.022 mol, 4.2 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | sodium carbonate | 0.02 mol, 2.12 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[4-(4-Methylbenzyl)-piperidino]-4'-methoxy-3',5'-dimethylpropiophenone | CC1=CC=C(CC2CCN(CC2)C(C(=O)C2=CC(=C(C(=C2)C)OC)C)C)C=C1 | C25H33NO2
